US03975532
Phenethylamine (0.15 mole, 18.2 grams) was reacted with a mixture of the cis and trans isomers of 3,4-bis(tosyloxymethyl)tetrahydrofuran, represented by formulas (XIX), (0.05 mole, 22.0 grams) in 60 ml triethylene glycol dimethyl ether at 185°C. for 3 hours. The reaction mixture was cooled to room temperature and neutralized with 75 ml methanolic sodium hydroxide solution (0.10 mole, 4.0 grams). After the reaction mixture was concentrated under aspirator pressure, 150 ml diethyl ether was added and sodium tosylate (18.5 grams) was filtered. Vacuum distillation of the filtrate gave 5-phenethyl-hexahydro-1H-furo(3,4-c)pyrrole (6.9 grams, b.p. 111° to 112°C./0.12 mm Hg). 5-Phenethyl-hexahydro-1H-furo(3,4-c)pyrrole was dissolved in 700 ml anhydrous diethyl ether and anhydrous hydrogen chloride was bubbled through the solution. The resulting 5-phenethyl-hexahydro-1H-furo(3,4-c)pyrrole hydrochloride was filtered, washed with ether, and dried. The product obtained had a melting point of 176° to 177°C.

reactant | Phenethylamine | 0.15 mole, 18.2 grams | C(CC1=CC=CC=C1)N | C8H11N
reactant | 3,4-bis(tosyloxymethyl)tetrahydrofuran | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1COCC1COS(=O)(=O)C1=CC=C(C)C=C1 | C20H24O7S2
reactant | sodium hydroxide | 0.10 mole, 75 ml, 4.0 grams | [OH-].[Na+]
solvent | triethylene glycol dimethyl ether | 60 ml | COCCOCCOCCOC | C8H18O4
product | 5-phenethyl-hexahydro-1H-furo(3,4-c)pyrrole | 6.9 grams | C(CC1=CC=CC=C1)N1CC2C(C1)COC2 | C14H19NO
